US04760140
(6R-trans)-3-[(Acetyloxy)methyl]-7-[[[[(dimethylamino)methylene]amino]thioxomethyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester
A 650 mg portion of N,N-dimethylformamide diethylacetal in 10 ml of dichloromethane was added dropwise to a solution of 2 g of (6R-trans)-3-[(acetyloxy)methyl-7-[(aminothioxomethyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester in 35 ml of dichloromethane. The mixture was stirred for 20 minutes, then filtered, evaporated and the residue purified by flash chromatography using the system ethyl acetate:petroleum ether (1:1) and giving 1.08 g of the desired product.

reactant | N,N-dimethylformamide diethylacetal | C(C)OC(N(C)C)OCC | C7H17NO2
reactant | (acetyloxy)methyl-7-[(aminothioxomethyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(=S)N)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C24H23N3O5S2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | (6R-trans)-3-[(Acetyloxy)methyl]-7-[[[[(dimethylamino)methylene]amino]thioxomethyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | 1.08 g | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC(=S)N=CN(C)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H28N4O5S2
